US08865713B2
Step B: 1-[6-chloro-1-(2-methoxy-ethoxymethyl)-5-(2-nitro-phenyldisulfanyl)-1H-benzoimidazol-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester.
To a stirred solution of 1-[5-tert-butylsulfanyl-6-chloro-1-(2-methoxy-ethoxymethyl)-1H-benzoimidazol-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester (3.00 g, 6.42 mmol) and DCM (32 mL) was added potassium carbonate (1.78 g, 12.9 mmol). The reaction mixture was treated with 2-nitrobenzenesulfenyl chloride (3.05 g, 16.1 mmol) and stirred at 23° C. for 16 h. The resulting residue was concentrated and purified by FCC (5-30% EtOAc/hexanes) to provide the titled compound (2.99 g, 82% crude yield) as a 2:1 ratio of regioisomers. This compound was used without further purification in subsequent reactions. MS (ESI/CI): mass calcd. for C23H22ClN5O6S2, 563.1; m/z found, 564.1 [M+H]+. 1H NMR (600 MHz, CDCl3): 8.85-8.82 (m, 2H), 8.17 (s, 2H), 7.75 (s, 0.66H), 7.72 (s, 1.34H), 7.68 (s, 1.34H), 7.64 (s, 0.66H), 7.45-7.42 (m, 4H), 7.31-7.26 (m, 4H), 6.09 (d, J=2.1 Hz, 4H), 4.36 (q, J=7.1 Hz, 4H), 3.67-3.62 (m, 4H), 3.49-3.42 (m, 4H), 3.31 (d, J=1.9, 6H), 1.38 (t, J=7.1 Hz, 6H).

reactant | 1-[5-tert-butylsulfanyl-6-chloro-1-(2-methoxy-ethoxymethyl)-1H-benzoimidazol-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester | 6.42 mmol, 3.00 g | C(C)OC(=O)C=1C=NN(C1)C1=NC2=C(N1COCCOC)C=C(C(=C2)SC(C)(C)C)Cl | C21H27ClN4O4S
reactant | potassium carbonate | 12.9 mmol, 1.78 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-nitrobenzenesulfenyl chloride | 16.1 mmol, 3.05 g | [N+](=O)([O-])C1=C(C=CC=C1)SCl | C6H4ClNO2S
solvent | DCM | 32 mL | C(Cl)Cl | CH2Cl2
product | 1-[6-chloro-1-(2-methoxy-ethoxymethyl)-5-(2-nitro-phenyldisulfanyl)-1H-benzoimidazol-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester | 2.99 g | C(C)OC(=O)C=1C=NN(C1)C1=NC2=C(N1COCCOC)C=C(C(=C2)SSC2=C(C=CC=C2)[N+](=O)[O-])Cl | C23H22ClN5O6S2
